US05962479
4-(1-Ethyl-propoxy)-2,5-dimethyl-6-(2.4.6-trimethylphenoxy)-pyrimidine
A mixture of 3-pentanol (0.3 ml) and sodium hydride (60% in oil, 32 mg, 0.81 mmol) in DMSO was stirred at room temperature for 5 minutes. 4--Chloro-2,5-dimethyl-6-(2,4,6-trimethylphenyoxy)-pyrimidine (150 mg, 0.54 mmol) was added and the resulting mixture was heated at 150° C. for 5 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was separated, dried and concentrated to give a beige solid. The solid was purified through silica gel column chromatography using 20% chloroform in hexane as eluent to give the title compound as white crystals, mp 93.5-95.5° C. 1H NMR (CDCl3) δ6.85 (s, 2H), 5.11 (t, 1H), 2.27 (s, 3H), 2.26 (s, 3H), 2.11 (s, 3H), 2.03 (s, 6H), 1.68 (p, 4H), 0.92 (t, 6H) ppm.

reactant | 3-pentanol | 0.3 ml | CCC(CC)O | C5H12O
reactant | sodium hydride | 0.81 mmol, 32 mg | [H-].[Na+]
reactant | 4--Chloro-2,5-dimethyl-6-(2,4,6-trimethylphenyoxy)-pyrimidine | 0.54 mmol, 150 mg | ClC1=NC(=NC(=C1C)OC1=C(C=C(C=C1C)C)C)C | C15H17ClN2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(1-Ethyl-propoxy)-2,5-dimethyl-6-(2.4.6-trimethylphenoxy)-pyrimidine | C(C)C(CC)OC1=NC(=NC(=C1C)OC1=C(C=C(C=C1C)C)C)C | C20H28N2O2
